US07456164B2
1-(cyclopropylmethyl)-4-({4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-2H-pyran-4-yl}methyl)-piperazine
The title compound (26 mg, 14%) was prepared from 1-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-ylmethyl}piperazine and cyclopropane carboxaldehyde similarly to the procedure used for example 54. 1H NMR (400 MHz, CDCl3) δ 0.02 (q, 2H), 0.43 (q, 2H), 0.76 (m, 1H), 1.74-1.76 (m, 4H), 1.83-1.89 (m, 2H), 1.95-1.99 (m, 2H), 2.03-2.06 (m, 3H), 2.13 (d, 2H), 2.19-2.21 (m, 4H), 2.26-2.40 (m, 5H), 2.47-2.51 (m, 4H), 2.59 (t, 2H), 3.49 (t, 2H), 3.68-3.72 (m, 2H), 3.98 (t, 2H), 6.82 (d, 2H), 7.17 (d, 2H). HRMS ESI+ m/z 442.3412 [MH]+.

reactant | 1-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-ylmethyl}piperazine | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN1CCNCC1 | C23H37N3O2
reactant | cyclopropane carboxaldehyde | C1(CC1)C=O | C4H6O
product | 1-(cyclopropylmethyl)-4-({4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-2H-pyran-4-yl}methyl)-piperazine | 26 mg, 14% | C1(CC1)CN1CCN(CC1)CC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C27H43N3O2
